US06770645B2
2-(Propionylamino)-4-pentenoic acid
Propionic anhydride (18.0 ml, 140 mmol) was added dropwise to a solution of DL-2-amino-4-pentenoic acid (14.6 g, 127 mmol) and K2CO3 (19.3 g, 140 mmol) in H2O (100 ml) at 0° C. The reaction mixture was warmed to 20° C. and stirred for 18 h. Conc. HCl was added until the pH was 1, and the mixture was extracted with DCM (2×100 ml). The combined organics were dried (Na2SO4), filtered and concentrated in vacuo. The crude product was triturated with pentane (100 ml) to afford the title compound as white crystals (18.9 g, 110 mmol, 87%); mp 96-98° C.

reactant | Propionic anhydride | 140 mmol, 18.0 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | DL-2-amino-4-pentenoic acid | 127 mmol, 14.6 g | C=CCC(C(=O)O)N | C5H9NO2
reactant | K2CO3 | 140 mmol, 19.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | Cl | ClH
solvent | H2O | 100 ml | O | H2O
product | 2-(Propionylamino)-4-pentenoic acid | 110 mmol, 18.9 g, 87% | C(CC)(=O)NC(C(=O)O)CC=C | C8H13NO3
